US06855710B2
c) (Z)-3-{1-[4-(2-dimethylamino-ethylsulphonylamino)-phenylamino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Example 39 from 3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone and 4-(2-dimethylamino-ethylsulphonylamino)-aniline.

reactant | 3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=CC=C12)=O | C17H15NO2
reactant | 4-(2-dimethylamino-ethylsulphonylamino)-aniline | CN(CCS(=O)(=O)NC1=CC=C(N)C=C1)C | C10H17N3O2S
product | (Z)-3-{1-[4-(2-dimethylamino-ethylsulphonylamino)-phenylamino]-1-phenyl-methylidene}-2-indolinone | CN(CCS(=O)(=O)NC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O)C | C25H26N4O3S
